US07326731B2
Combine N-methyl-N-(4-fluorobenzyl)acetamide (364.8 g, 2.01 mol) and THF (9 L). Stir to dissolve and then add phosphorus pentasulfide (537.7 g, 1.21 mol). After 45 min heat to reflux for 3 h, then cool and stir overnight to give a solid. Collect the solid by filtration and rinse the cake with THF (4 L), evaporate the filtrate in vacuo to give a residue, dissolve the residue in methylene chloride (about 500 mL), and passed over a cake of silica gel 60 (1.2 kg) preconditioned with heptane. Elute with 4 L of heptane/methylene chloride (1:1) followed by 100% methylene chloride to afford 217.98 g of N-methyl-N-(4-fluorobenzyl)thioacetamide (55%): mp=99-104° C.; Rf=0.42 (methylene chloride); 1H NMR (CDCl3) 7.35-7.26 (m, 1), 7.14-6.96 (m, 3),5.28 (s, 1.2) and 4.79 (s, 0.8), 3.42 (s, 1.2) and 3.15 (s, 1.8), 2.72 (s, 1.2) and 2.69 (s, 1.8). Note: Partial protons are believed to be due to rotomers.

reactant | N-methyl-N-(4-fluorobenzyl)acetamide | 2.01 mol, 364.8 g | CN(C(C)=O)CC1=CC=C(C=C1)F | C10H12FNO
reactant | THF | 9 L | C1CCOC1 | C4H8O
reactant | phosphorus pentasulfide | 1.21 mol, 537.7 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | heptane | CCCCCCC | C7H16
solvent | methylene chloride | about 500 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(4-fluorobenzyl)thioacetamide | 217.98 g, 55% | CN(C(C)=S)CC1=CC=C(C=C1)F | C10H12FNS
